US06613743B2
A mixture of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(cyclohexyloxy)amino]-2-hydroxypropylcarbamate (100 mg, 0.230), 1,3-benzodioxole-5-sulfonyl chloride (Eur. Pat. Appl. 583960, Feb 23, 1994, 56 mg, 0.253 mmol) and diisoproylethylamine (0.042 mL, 0.242 mmol) in anhydrous tetrahydrofuran (3 mL) was stirred at ambient temperature under an Argon atmosphere for 16 hours. A catalytic quantity of dimethylaminopyridine (˜1 mg) was added and the reaction was heated at reflux for approximately 2 hours. An additional quantity of 1,3-benzodioxole-5-sulfonyl chloride (11 mg, 0.050 mmol) was added and the reaction was heated for an additional hour. After cooling to ambient temperature, the reaction mixture was partitioned between ethyl acetate and aqueous hydrochloric acid. After separating the phases, the organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified on a preparative TLC plate (20×20 cm, 500 μM) eluting with 1:1 ethyl acetate:hexane. The product band was removed, eluted with 3:1 methylene chloride : methanol, filtered, and evaporated in vacuo. The residue was triturated with water, filtered and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(cyclohexyloxy)amino]-1-benzyl-2-hydroxypropylcarbamate (123 mg, 87%) as a white solid. H1-NMR (chloroform-D3): 1.32 (m, 6H), 1.70 (m, 5H), 2.14 (m, 2H), 3.00 (m, 4H), 3.18 (b, 1H), 3.74 (m, 2H), 3.97 (m, 4H), 4.27 (m, 1H), 4.90 (m, 1H), 5.07 (m, 1H), 5.70 (d, 1H), 6.15 (s, 2H), 6.95 (d, 1H), 7.30 (m, 7H). MS(ESI): 641(M+Na).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(cyclohexyloxy)amino]-2-hydroxypropylcarbamate | 100 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC1CCCCC1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C23H34N2O6
reactant | 1,3-benzodioxole-5-sulfonyl chloride | 0.253 mmol, 56 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
reactant | diisoproylethylamine | 0.242 mmol, 0.042 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3-benzodioxole-5-sulfonyl chloride | 0.050 mmol, 11 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | ˜1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(cyclohexyloxy)amino]-1-benzyl-2-hydroxypropylcarbamate | 123 mg, 87% | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=CC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)OC1CCCCC1 | C30H38N2O10S
